US05733683
(c) Synthesis of 3(3,5-difluorophenyl)thiophene
The same procedures set forth above in Example (1)(a) for synthesizing 3(3,4,5-trifluorophenyl)thiophene were followed, with the exception that 1-bromo-3,5-difluorobenzene was substituted for 1-bromo-3,4,5-trifluorobenzene as the 1-bromo-substituted fluorobenzene.

reactant | 3(3,4,5-trifluorophenyl)thiophene | FC=1C=C(C=C(C1F)F)C1=CSC=C1 | C10H5F3S
reactant | 1-bromo-3,5-difluorobenzene | BrC1=CC(=CC(=C1)F)F | C6H3BrF2
reactant | 1-bromo-3,4,5-trifluorobenzene | BrC1=CC(=C(C(=C1)F)F)F | C6H2BrF3
product | 3(3,5-difluorophenyl)thiophene | FC=1C=C(C=C(C1)F)C1=CSC=C1 | C10H6F2S
